US09024093B2
Synthesis of (4-methoxyphenyl)trimethylstannane (S3)
To trimethyltin chloride (1.71 g, 8.58 mmol, 1.00 equiv) in THF (50 mL) at 23° C. was added 4-methoxyphenylmagnesium bromide (0.50 M in THF, 34.3 mL, 17 mmol, 2.0 equiv). After stirring for 1.0 hr at 60° C., the reaction mixture was cooled to 0° C. and quenched with saturated aqueous NH4Cl (50 mL), and Et2O (50 mL) was added. The phases were separated and the aqueous phase was extracted with Et2O (2×50 mL). The combined organic phases were washed with brine (100 mL) and dried (Na2SO4). The filtrate was concentrated in vacuo and the residue was purified by fractional distillation to afford 1.86 g of the title compound as a colorless oil (80% yield).

reactant | trimethyltin chloride | 8.58 mmol, 1.71 g, 1.00 equiv | C[Sn](C)(C)Cl
reactant | 4-methoxyphenylmagnesium bromide | 17 mmol, 0.50 M, 34.3 mL, 2.0 equiv | COC1=CC=C(C=C1)[Mg]Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-methoxyphenyl)trimethylstannane | 1.86 g, 80% yield | COC1=CC=C(C=C1)[Sn](C)(C)C | InChI=1S/C7H7O.3CH3.Sn/c1-8-7-5-3-2-4-6-7;;;;/h3-6H,1H3;3*1H3;
